datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1nc(N)c2[nH]cnc2[n:10]1.O=[N+]([O-])c1cc([NH2+:21][H:20])cc2ccccc12>>COc1nc(N)c2[nH]cnc2[n+:10]1[H:20].O=[N+]([O-])c1cc([NH2:21])cc2ccccc12 10=20;20,21=21",
"CCCCCC(=O)[O-:10].c1cnc2c([O:21][H:20])cncc2c1>>CCCCCC(=O)[O:10][H:20].c1cnc2c([O-:21])cncc2c1 10=20;20,21=21",
"CC[S+:21](C(O)(O)C(F)(F)F)[H:20].O=S(CCCCc1ccccc1)[O-:10]>>CC[S:21]C(O)(O)C(F)(F)F.O=S(CCCCc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC1=C(CC(C)[NH+:21](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.CC1CCC(O)(C(C(=O)[O-:10])c2ccc(-c3ccccc3)cc2)CC1>>CC1=C(CC(C)[NH:21]CC(O)c2ccc(F)cc2)CCC1(C)C.CC1CCC(O)(C(C(=O)[O:10][H:20])c2ccc(-c3ccccc3)cc2)CC1 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O-:10])c3[C@H](C2)N1C.O=S(=O)(Nc1cnccn1)c1ccc([NH2+:21][H:20])cc1>>COc1cc2c(cc1OC)[C@@H]1Cc3ccc(OC)c([O:10][H:20])c3[C@H](C2)N1C.O=S(=O)(Nc1cnccn1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"Nc1c[nH+]c([S:21][H:20])nc1N.[O-]c1nc([O-])[n:10]c2nn[nH]c12>>Nc1c[nH+]c([S-:21])nc1N.[O-]c1nc([O-])[n+:10]([H:20])c2nn[nH]c12 10=20;20,21=21",
"CC(O)C[NH:10]CCN.C[NH+](C)CCCCNc1c2ccccc2[n+:21]([H:20])c2cccc([N+](=O)[O-])c12>>CC(O)C[NH+:10](CCN)[H:20].C[NH+](C)CCCCNc1c2ccccc2[n:21]c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CC(C)(CN)[NH2+:21][H:20].COc1cccc(/C=C/C(=O)[O-:10])c1>>CC(C)(CN)[NH2:21].COc1cccc(/C=C/C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CC(C)(O)C(=O)[O:21][H:20].c1ncc2c[n:10][nH]c2n1>>CC(C)(O)C(=O)[O-:21].c1ncc2c[n+:10]([H:20])[nH]c2n1 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.Cc1cc(C)[n+:21]([H:20])c2c(C)cccc12>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.Cc1cc(C)[n:21]c2c(C)cccc12 10=20;20,21=21",
"C1C[N:10]2CCN1CC2.CC[NH+:21](c1ccccc1C)[H:20]>>C1C[N+:10]2([H:20])CCN1CC2.CC[NH:21]c1ccccc1C 10=20;20,21=21",
"C[C@@H]1[C@H](N)[C@H](C)[C@H]([NH3+])[C@H](C)[C@@H]1[NH2:10].C[n+]1ccc(N[NH2+:21][H:20])c2ccccc21>>C[C@@H]1[C@H](N)[C@H](C)[C@H]([NH3+])[C@H](C)[C@@H]1[NH2+:10][H:20].C[n+]1ccc(N[NH2:21])c2ccccc21 10=20;20,21=21",
"C=C(C)C(O)[NH2:10].O=[N+]([O-])[N:21](c1nc[nH]n1)[H:20]>>C=C(C)C(O)[NH2+:10][H:20].O=[N+]([O-])[N-:21]c1nc[nH]n1 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)[NH-:10])cccc12.O=[N+]([O-])c1cccc([NH2+:21][H:20])c1>>CN(C)c1cccc2c(S(=O)(=O)[NH:10][H:20])cccc12.O=[N+]([O-])c1cccc([NH2:21])c1 10=20;20,21=21",
"CC(C)O[O:21][H:20].C[N+](C)(C)CCCc1ccccc1[O-:10]>>CC(C)O[O-:21].C[N+](C)(C)CCCc1ccccc1[O:10][H:20] 10=20;20,21=21",
"C=C1CC1CC(C(=O)[O-])[NH2:10].CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C=C1CC1CC(C(=O)[O-])[NH2+:10][H:20].CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)[NH:10]C(C)C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[NH+:10](C(C)C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CSc1cc2ccccc2c[n+:21]1[H:20].O=C([O-])c1c2ccccc2cc[n:10]1>>CSc1cc2ccccc2c[n:21]1.O=C([O-])c1c2ccccc2cc[n+:10]1[H:20] 10=20;20,21=21",
"C=CC[NH:10]c1ccccc1.C[N+]1(CCCCCC(=O)[O:21][H:20])CCCCC1>>C=CC[NH+:10](c1ccccc1)[H:20].C[N+]1(CCCCCC(=O)[O-:21])CCCCC1 10=20;20,21=21",
"C[N+]1(CCCCC(=O)[O-:10])CCCCC1.O=[Se](c1ccccc1)[O:21][H:20]>>C[N+]1(CCCCC(=O)[O:10][H:20])CCCCC1.O=[Se](c1ccccc1)[O-:21] 10=20;20,21=21",
"O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCCC[C@@H]1[NH2+:21][H:20].O=C1NC(=O)[C@H](CSSC[C@@H]2NC(=O)[N-:10]C2=O)N1>>O=C(Oc1ccc([N+](=O)[O-])cc1)[C@@H]1CCCC[C@@H]1[NH2:21].O=C1NC(=O)[C@H](CSSC[C@@H]2NC(=O)[N:10]([H:20])C2=O)N1 10=20;20,21=21",
"CC(Cc1ccccc1)[NH+:21](CCC#N)[H:20].CCSC(C)[O-:10]>>CC(Cc1ccccc1)[NH:21]CCC#N.CCSC(C)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(N)ccc1-c1ccc([NH2:10])cc1C.Nc1ccc(S(=O)(=O)[N:21](c2nccs2)[H:20])c(Cl)c1>>Cc1cc(N)ccc1-c1ccc([NH2+:10][H:20])cc1C.Nc1ccc(S(=O)(=O)[N-:21]c2nccs2)c(Cl)c1 10=20;20,21=21",
"C1CNCC[NH+:21]([H:20])CC[NH2+]C1.Cc1n[nH]c2ccc([NH2:10])cc12>>C1CNCC[NH:21]CC[NH2+]C1.Cc1n[nH]c2ccc([NH2+:10][H:20])cc12 10=20;20,21=21",
"[NH3+]CC(=O)NCC(=O)NCC(=O)N1CCCC1C(=O)[O:21][H:20].c1ccc2c(c1)CCC([NH2:10])C2>>[NH3+]CC(=O)NCC(=O)NCC(=O)N1CCCC1C(=O)[O-:21].c1ccc2c(c1)CCC([NH2+:10][H:20])C2 10=20;20,21=21",
"Fc1ccc([O-:10])c(C[NH+]2CCCCC2)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Fc1ccc([O:10][H:20])c(C[NH+]2CCCCC2)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(/C=C(\C)Nc1ccccc1)=[N:10]/c1ccccc1.NN=C(N)c1ncnc2nc[n:21]([H:20])c12>>CC(/C=C(\C)Nc1ccccc1)=[N+:10](/c1ccccc1)[H:20].NN=C(N)c1ncnc2nc[n-:21]c12 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(CC#N)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(CC#N)[NH2+:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCCCCCC[NH2+:21][H:20].O=Nc1c([O-:10])ccc2ncsc12>>CCCCCCCCCCCCCCC[NH2:21].O=Nc1c([O:10][H:20])ccc2ncsc12 10=20;20,21=21",
"CCCCC1CCC[N:10]1C.c1ccc([O:21][H:20])c(CN2CCCC2)c1>>CCCCC1CCC[N+:10]1(C)[H:20].c1ccc([O-:21])c(CN2CCCC2)c1 10=20;20,21=21",
"Cc1cc(CO)c([O-:10])c(CO)c1.Oc1ccc(/C(c2ccccc2)=[NH+:21]/[H:20])cc1>>Cc1cc(CO)c([O:10][H:20])c(CO)c1.Oc1ccc(C(c2ccccc2)=[NH:21])cc1 10=20;20,21=21",
